Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cefepime / lisinopril
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
right heart cath ___
 
History of Present Illness:
History of Presenting Illness: ___ is a ___ year old woman with 
HTN, HL, DM2, h/o asthma with chronic cough, multiple sinus 
infections, chronic ___ edema who had a recent protracted 
hospitalization characterized by respiratory, hepatic and renal 
failures as well as Candidemia, who presents with dyspnea, cough 
and wheezing.  
 The patient had a protracted hospital course, which is 
described below in the ___. She was discharged to rehab, and 
then returned home about 1 week ago, where she had been doing 
quite well, until a few days ago, when she noted increasing 
dyspnea.  
 She had dyspnea on exertion, accompanied by nausea and dry 
heaves. She noted intermittent palpitations, mild PND, as well 
as ___ pillow orthopnea. She had bilateral ___ edema, but was 
started on furosemide at rehab (dosing schedule the patient 
cannot recall) and this has since helped. She has no chest pain 
and no relief of her dyspnea with nebs. She added that she's had 
an unintentional 30 lb weight loss during and since her critical 
illness.  
 With regard to her critical illness, she is no longer on HD, 
nor anticoagulation for her upper extremity vein thrombosis (not 
a DVT, rather VTE of basilic vein).  
 In the ED, initial vital signs were: pain ___, T 96.6, HR 74, 
BP initially 178/125, down to 170/80, R ___, 95% on NC  
 - Labs were notable for anemia (Hgb 9), K 3.2, Cr 1.3, total 
bilirubin 2.4, ALP 140, D-dimer 5516 and proBNP 51___  
 - Imaging of the chest with CTA showed no PE, but severe 
pulmonary edema with moderate bilateral pleural effusions  
 - She was given 1L NS, then furosemide 40 mg and 40 mEq KCl, 
metoprolol tartrate 25 mg, APAP 1 g, rifaximin 550 mg and 
ropinirole 6 mg  
 On arrival to the floor, she feels otherwise OK, breathing 
comfortably with O2 by NC, sitting up in bed.  
 Review of Systems:  
 No abdominal pain, diarrhea/constipation, urinary symptoms, or 
leg swelling.  

 
Past Medical History:
HTN
DM2
HLD
Asthma
GERD
Pneumonia
Lyme Disease
Restless Leg Syndrome
Arthritis
Sleep Apnea
Liposuction (___?)
 
Social History:
___
Family History:
Father with diabetes. Multiple extended family members with 
diabetes, heart disease. Sister with question of lupus.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals - T 98.1, BP 174/102, HR 79, R 20, SpO2 99%/2L, 75.3 kg  
General - appears well, comfortable, in bed  
HEENT - sclerae anicteric, PERRL, EOMI  
Neck - JVD appreciated at the angle of the mandible without HJR  

Cardiac - regular, normal S1 & S2, grade I-II systolic murmur at 
the RUSB radiating to the carotids  
Pulmonary - dull lung sounds at the bases, with crackles halfway 
up  
Abdomen - large, soft, non-tender, non-distended  
Extremities - warm, well-perfused, trace shin edema  
Neurologic - face symmetric, moving all extremities well  

DISCHARGE PHYSICAL EXAM:
VS: 98.2 ___ 63-101 20 94%RA
Wt 68.2 kg from 75.3 on admission
I: 600 O: 3150 
General - appears well, comfortable, in bed  
HEENT - sclerae anicteric, PERRL, EOMI  
Neck - no JVD 
Cardiac - regular, normal S1 & S2, grade I-II systolic murmur at 
the RUSB radiating to the carotids  
Pulmonary - dull lung sounds at the bases, no crackles
Abdomen - large, soft, non-tender, non-distended  
Extremities - warm, well-perfused, no BLE edema  
Neurologic - face symmetric, moving all extremities well  

 
Pertinent Results:
ADMISSION LABS:
___ 06:33PM   PLT COUNT-293
___ 06:33PM   NEUTS-56.6 ___ MONOS-5.0 EOS-2.9 
BASOS-0.5 IM ___ AbsNeut-3.55# AbsLymp-2.17 AbsMono-0.31 
AbsEos-0.18 AbsBaso-0.03
___ 06:33PM   WBC-6.3 RBC-2.90* HGB-9.0* HCT-27.8* MCV-96 
MCH-31.0 MCHC-32.4 RDW-15.3 RDWSD-53.0*
___ 06:33PM   D-DIMER-5516*
___ 06:33PM   ALBUMIN-3.8
___ 06:33PM   CK-MB-2 cTropnT-0.02* proBNP-5167*
___ 06:33PM   cTropnT-0.02*
___ 06:33PM   LIPASE-28
___ 06:33PM   ALT(SGPT)-24 AST(SGOT)-30 ALK PHOS-140* TOT 
BILI-2.4*
___ 06:33PM   estGFR-Using this
___ 06:33PM   GLUCOSE-103* UREA N-7 CREAT-1.3*# SODIUM-143 
POTASSIUM-3.2* CHLORIDE-104 TOTAL CO2-25 ANION GAP-17
___ 06:39PM URINE  MUCOUS-RARE
___ 06:39PM URINE  RBC-<1 WBC-14* BACTERIA-FEW YEAST-NONE 
EPI-2
___ 06:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-SM 
___ 06:39PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:39PM URINE  UHOLD-HOLD
___ 06:39PM URINE  HOURS-RANDOM
___ 06:46PM   LACTATE-1.7
___ 07:00PM   ___ PTT-29.8 ___

PERTINENT RESULTS:
___ 06:15AM BLOOD Glucose-107* UreaN-8 Creat-1.4* Na-144 
K-4.2 Cl-106 HCO3-25 AnGap-17
___ 04:11PM BLOOD Glucose-93 UreaN-9 Creat-1.4* Na-140 
K-4.2 Cl-103 HCO3-21* AnGap-20
___ 06:55AM BLOOD Glucose-120* UreaN-9 Creat-1.5* Na-141 
K-4.0 Cl-101 HCO3-24 AnGap-20
___ 06:33PM BLOOD CK-MB-2 cTropnT-0.02* proBNP-5167*
___ 06:33PM BLOOD cTropnT-0.02*
___ 11:50AM BLOOD CK-MB-2 cTropnT-0.02*
___ 03:34PM BLOOD CK-MB-2 cTropnT-0.02*
___ 03:34PM BLOOD Calcium-9.9 Phos-4.8* Mg-1.4*
___ 09:06PM BLOOD Calcium-9.7 Phos-4.5 Mg-1.7
___ 06:15AM BLOOD Calcium-9.9 Phos-4.8* Mg-2.3
___ 04:11PM BLOOD Calcium-10.1 Phos-4.5 Mg-2.0
___ 06:55AM BLOOD Calcium-10.5* Phos-5.8* Mg-1.9
___ 06:33PM BLOOD TSH-2.0
___ 04:55AM BLOOD %HbA1c-5.2 eAG-103
___ 06:15AM BLOOD Cortsol-6.4

PENDING LABS: Ceruloplasmin

DISCHARGE LABS:
___ 06:55AM BLOOD WBC-5.5 RBC-3.24* Hgb-9.9* Hct-31.8* 
MCV-98 MCH-30.6 MCHC-31.1* RDW-14.6 RDWSD-52.9* Plt ___
___ 06:55AM BLOOD Glucose-120* UreaN-9 Creat-1.5* Na-141 
K-4.0 Cl-101 HCO3-24 AnGap-20
___ 06:55AM BLOOD ALT-24 AST-24 AlkPhos-150* TotBili-2.0*
___ 06:55AM BLOOD Calcium-10.5* Phos-5.8* Mg-1.9

IMAGING STUDIES:

___ CTA CHEST 
1. No evidence of pulmonary embolism to the segmental levels.  
No acute aortic
pathology.
2. Severe pulmonary edema with moderate bilateral pleural 
effusions.
3. Borderline enlarged mediastinal lymph nodes, measuring up to 
1 cm, which
may be reactive.
4. Enlarged main pulmonary artery measuring 3.2 cm, can be seen 
in setting of
pulmonary arterial hypertension.
5. Splenomegaly and perihepatic ascites.

___ TTE
The left atrium is elongated. No atrial septal defect is seen by 
2D or color Doppler. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Right ventricular chamber size and free wall motion are 
normal. The diameters of aorta at the sinus, ascending and arch 
levels are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve leaflets are 
structurally normal. An eccentric, posteriorly directed jet of 
moderate (2+) mitral regurgitation is seen. There is moderate 
pulmonary artery systolic hypertension. There is no pericardial 
effusion. 

IMPRESSION: Preserved biventricular systolic function. Moderate 
mitral regurgitation. Mild to moderate tricuspid regurgitation. 
Moderate pulmonary artery systolic hypertension.

Compared with the prior study (images reviewed) of ___, 
the severity of mitral and tricuspid regurgitation has 
increased. The pulmonary artery systolic pressure is higher 
(previously 43 mmHg). 

___ RIGHT HEART CATH (Final report pending)
RA 9, PA mean 30, PCWP ___ is a ___ year old woman with a PMH significant for HTN and 
DM-II, who recently had a protracted hospital course, 
characterized by respiratory, renal and hepatic failure. She was 
discharged to rehab and eventually returned home, as her system 
failure resolved. She returns now with dyspnea, elevated BNP and 
severe pulmonary edema, concerning for acute heart failure, in 
the setting of mild chronic diastolic heart failure and 
hypertension.  

Active Issues:

# CHF with preserved ejection fraction:  Over the 4 days prior 
to admission she developed dyspnea and 3 pillow orthopnea. Upon 
admission she was found to have elevated blood pressures (MAPs 
as high as 105), BNP over 5000, and severe pulmonary edema on CT 
chest (done to rule out PE) concerning for acute heart failure. 
TTE showed EF 55% and moderate mitral regurgitation, mild to 
moderate tricuspid regurgitation, moderate pulmonary artery 
systolic hypertension with elevated TR gradient of 55. She 
diuresed well to 80 IV Lasix daily and was weaned to RA on HD. 
On HD2 she underwent a right heart cath which showed elevated 
filling pressures (PCWP 22) so she continued on IV diuresis. Her 
heart failure exacerbation was most likely due to high blood 
pressure. She had a mild troponin elevation (0.02) which was 
stable on repeat checks, denied chest pain, and had no ischemic 
EKG changes. Upon discharge she was ambulating without dyspnea 
and satting well on RA.   

# Hypertensive emergency: BP elevated to 178/125 on admission. 
She was started on losartan 25 mg daily. Home metoprolol was 
discontinued.

Chronic Issues:

#h/o Diabetes mellitus. Off medications.  Hgb A1C 5.2.  

# Asthma. Advair, albuterol nebs PRN.  

# GERD. Continue omeprazole.  

# Restless leg syndrome. Continue ropinirole, duloxetine

# Recent renal failure: Cr was 1.3-1.5 on this admission, much 
improved from prior hospitalization at which time she had 
reqiured HD. Her home sevelamer was continued; bicarb was 
stopped.

>> TRANSITIONAL ISSUES:
# She will follow up with hepatology as an outpatient for 
history of liver failure of still unclear etiology, possibly due 
to antibiotics and supplements she was taking for chronic lyme. 
# Diuretic regimen on discharge: 20mg torsemide daily. Please 
check electrolytes at next appointment.
# She was discharged on 25 mg of losartan daily. Metoprolol was 
discontinued. Please f/u BPs on this regimen and check lytes at 
next appointment.
-Labs pending at discharge: cerulosplasmin
-Her sodium bicarb was discontinued as she was no longer in 
renal failure. Continued her calcium carbonate given elevated 
phos.
-AM cortisol was 6.4 during this admission. This is 
borderline-low for a morning cortisol. She is planning to see an 
endocrinologist close to home for her hypothyroidism; additional 
work up for adrenal insufficiency could be considered at that 
time. 

-discharge weight: 68.2 kg
-discharge Creatinine: 1.5

# Contact: husband, ___ 
# Code Status: FULL CODE 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN PAIN 
2. Metoprolol Tartrate 25 mg PO Q6H 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. TraZODone 25 mg PO QHS:PRN INSOMNIA 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. FoLIC Acid 1 mg PO DAILY 
8. Duloxetine 30 mg PO DAILY 
9. Furosemide 20 mg PO DAILY 
10. Lorazepam 0.25 mg PO QHS:PRN anxiety 
11. Rifaximin 550 mg PO BREAKFAST 
12. Ropinirole 6 mg PO QPM 
13. sevelamer CARBONATE 650 mg PO TID W/MEALS 
14. Sodium Bicarbonate 650 mg PO TID 
15. Thiamine 100 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN PAIN 
2. Duloxetine 30 mg PO DAILY 
3. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
4. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Levothyroxine Sodium 175 mcg PO DAILY 
7. Lorazepam 0.25 mg PO QHS:PRN anxiety 
8. Rifaximin 550 mg PO BREAKFAST 
9. Ropinirole 6 mg PO QPM 
10. TraZODone 25 mg PO QHS:PRN INSOMNIA 
11. Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
12. sevelamer CARBONATE 650 mg PO TID W/MEALS 
13. Thiamine 100 mg PO DAILY 
14. Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Diastolic Congestive Heart Failure Exacerbation

SECONDARY DIAGNOSES:
hypothyroidism
renal failure
hypertension
restless legs syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___ was a pleasure taking care of you during your hospital stay 
at ___. You were admitted to 
___ because fluid backed up from your heart into your lungs 
called a diastolic heart failure exacerbation. This may have 
been related to high blood pressure. You were treated with 
medications that help you remove fluid (Lasix, also known as 
furosemide) and medications to lower your blood pressure. You 
had an ultrasound of the heart which showed pulmonary 
hypertension which will need to be monitored by your 
cardiologist, Dr. ___ you ___ follow up with next week. 
Please weigh yourself everyday and if your weight goes up by 3lb 
or more, call the heart failure team at ___.

It was a pleasure to care for you!
Your ___ team 
 
Followup Instructions:
___